### ISSUE TITLE
feat(Ch5): combined dimension-form Schur-Weyl polynomial identity (∑ Xᵢ)^n = ∑ dim(Specht) • schurPoly

### ISSUE THREAD

**Issue by kim-em** [FormalFrontier/Etingof-RepresentationTheory-draft1#2630]
## Current state

`Chapter5/SchurWeylPolynomialIdentity.lean` (PR #2606) provides:

- `sum_X_pow_eq_sum_charValue_smul_schurPoly` (line 75) — the
  polynomial identity in `MvPolynomial (Fin N) ℚ`, with coefficients
  `charValue N lam (trivialCycleType n) ∈ ℚ`.
- `charValue_trivialCycleType_eq_spechtFinrank` (line 105) — the
  Specht-dimension bridge, stated as an equality in `ℂ`:
  `(charValue N lam (trivialCycleType n) : ℂ) = (Module.finrank ℂ
  (SpechtModule n (lam.sum_eq ▸ weightToPartition N lam.parts)) : ℂ)`.

The downstream consumer (Schur-Weyl L_i final assembly, #2493) wants
the dimension-form statement directly:

```
(∑ Xᵢ)^n = ∑_{λ ∈ BoundedPartition N n}
  (Module.finrank ℂ (SpechtModule n (...)) : ?) • schurPoly N λ.parts
```

But these don't compose in one rewrite step because:

1. The polynomial identity lives in `MvPolynomial (Fin N) ℚ`, while
   the dimension bridge lives in `ℂ`.
2. `weightToPartition N lam.parts : Nat.Partition (∑ i, lam.parts i)`
   needs `lam.sum_eq ▸` to coerce to `Nat.Partition n`, which the
   `SpechtModule n` API expects.

## Deliverables

Provide a combined theorem that gives the dimension-form statement in
one piece. Two equivalent paths:

**Option A — `ℂ`-valued polynomial identity:**

```lean
theorem sum_X_pow_eq_sum_finrank_smul_schurPoly_C (N n : ℕ) :
    (∑ i : Fin N, (MvPolynomial.X i : MvPolynomial (Fin N) ℂ)) ^ n =
      ∑ lam : BoundedPartition N n,
        (Module.finrank ℂ (SpechtModule n
          (lam.sum_eq ▸ weightToPartition N lam.parts)) : ℂ) •
        MvPolynomial.map (algebraMap ℚ ℂ) (schurPoly N lam.parts) := by
  rw [show (∑ i, (X i : MvPolynomial (Fin N) ℂ))^n =
        MvPolynomial.map (algebraMap ℚ ℂ)
          ((∑ i, (X i : MvPolynomial (Fin N) ℚ))^n) from ?_]
  rw [sum_X_pow_eq_sum_charValue_smul_schurPoly,
      MvPolynomial.map_sum]
  refine Finset.sum_congr rfl (fun lam _ => ?_)
  rw [MvPolynomial.map_smul, charValue_trivialCycleType_eq_spechtFinrank]
  -- bridge ℕ-cast vs algebraMap-of-ℚ-cast
  ...
```

**Option B — `ℕ`-valued dimension bridge:**

Prove a stronger version of `charValue_trivialCycleType_eq_spechtFinrank`
showing both sides are non-negative integers, then transfer via
`Nat.cast_inj` to obtain a `ℚ`-equality:

```lean
theorem charValue_trivialCycleType_eq_spechtFinrank_nat
    (N : ℕ) {n : ℕ} (lam : BoundedPartition N n) :
    charValue N lam (trivialCycleType n) =
      (Module.finrank ℂ (SpechtModule n
        (lam.sum_eq ▸ weightToPartition N lam.parts)) : ℚ)
```

(uses the fact that `charValue` at the trivial cycle type equals
`spechtModuleCharacter (1 : Sₙ)` = `LinearMap.trace (1 : End)` =
`finrank` ∈ ℕ, hence non-negative).

Then the polynomial identity stays in `ℚ` and substitution is direct.

Either option is fine; Option B is mathematically tighter and keeps
the polynomial ring at `ℚ`. Pick whichever is easier to prove against
the existing API.

## Context

- Identified during audit #2608 (PR #2606), F3 finding.
- Audit report:
  `progress/reviews/2026-04-27-schur-weyl-Li-polynomial-C1-C2.md`.
- Non-blocking — the `ℂ`-bridge already provides everything needed
  for the Schur-Weyl assembly. This is purely a call-site bookkeeping
  reduction.

## Verification

- New combined theorem compiles in
  `Chapter5/SchurWeylPolynomialIdentity.lean`.
- `lake build EtingofRepresentationTheory.Chapter5.SchurWeylPolynomialIdentity`
  passes.
- The theorem's statement contains no `charValue` and no
  `algebraMap ℚ ℂ` if Option B is chosen, or a single
  `MvPolynomial.map (algebraMap ℚ ℂ)` wrap on the Schur polynomial
  if Option A is chosen.

## Sizing

Small — one new theorem + a 5-15 line proof, depending on option.

**Comment by kim-em** [comment]
Session: `85542f89-4b28-46e8-80d2-2c4e0fe5c122` Branch: `agent/85542f89`

**Comment by kim-em** [comment]
Claimed by session `fa4c1756-8321-4057-9a6d-672e4d1c6fec` on branch `agent/fa4c1756`
